US05547919
Methyl 4-(3-methylphenoxy)-6-methoxy-pyrimidin-5-yl-acetate (12.1 g, 42 mmol)is dissolved in a mixture of 1,2-dimethoxyethane (120 ml) and methyl formate (50 ml). Sodium hydride (2.5 g, 80% in oil, 84 mmol) is added in one portion, the temperature being kept at room temperature. After 5 hours dimethylsulfate (6.6 ml, 70 mmol) is added with cooling. After an additional 5 hours the reaction mixture is diluted with ether and washed with brine. Drying and chromatography on silicagel (eluant: hexane/ethyl acetate 1:1) gives the E-isomer of methyl α-[4-(3-methylphenoxy)-6-methoxy-pyrimidin-5-yl)-β-methoxyacrylate as a crystalline solid, m.p. 107° C.

reactant | Methyl 4-(3-methylphenoxy)-6-methoxy-pyrimidin-5-yl-acetate | 42 mmol, 12.1 g | CC=1C=C(OC2=NC=NC(=C2CC(=O)OC)OC)C=CC1 | C15H16N2O4
reactant | Sodium hydride | 84 mmol, 2.5 g | [H-].[Na+]
reactant | dimethylsulfate | 70 mmol, 6.6 ml | COS(=O)(=O)OC | C2H6O4S
reactant | 1,2-dimethoxyethane | 120 ml | COCCOC | C4H10O2
solvent | methyl formate | 50 ml | C(=O)OC | C2H4O2
solvent | ether | CCOCC | C4H10O
product | methyl α-[4-(3-methylphenoxy)-6-methoxy-pyrimidin-5-yl)-β-methoxyacrylate | CC=1C=C(OC2=NC=NC(=C2C(C(=O)OC)=COC)OC)C=CC1 | C17H18N2O5
